2186-03-12 06:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Episode of CP at 1045 with dynamic STD on EKG. Improved with NTG x2.
   CK 110, MB 5, trop 0.17 (<- 0.12).
   S: No CP, SOB, palp, lightheadedness. Denies f/c, cough, sputum,
   dysuria.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-12**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 68 (63 - 93) bpm
   BP: 139/51(73) {111/35(54) - 157/65(143)} mmHg
   RR: 15 (10 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    525 mL
                                                                    600 mL
   Urine:
                                                                    525 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -525 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   VITALS: 97.8, 135/76, 45, 20, 17%2LNC
   GEN: Alert and oriented x 2 (self, date), NAD
   HEENT: MMM
   Neck: JVP 8cm
   CV: RRR, III/VI early harsh crescendo-decrescendo murmur at base, no
   rubs or gallops.
   PULM: CTAB, no W/R/R
   ABD: Soft, NT, NT, +BS.  Stable R groin hematoma with ecchynoses that
   extend down to scrotum and penis, nontender.
   EXT: No peripheral edema, WWP
   Labs / Radiology
   276 K/uL
   9.8 g/dL
   157 mg/dL
   1.8 mg/dL
   30 mEq/L
   3.6 mEq/L
   52 mg/dL
   104 mEq/L
   145 mEq/L
   28.5 %
   12.3 K/uL
        [image002.jpg]
                             [**2186-3-11**]  05:32 AM
                             [**2186-3-11**]  05:11 PM
                             [**2186-3-12**]  04:21 AM
   WBC
   11.5
   12.3
   Hct
   28.0
   28.8
   28.5
   Plt
   250
   276
   Cr
   1.8
   1.8
   TropT
   0.12
   0.17
   Glucose
   211
   157
   Other labs: PT / PTT / INR:13.9/25.4/1.2, CK / CKMB /
   Troponin-T:110/5/0.17, Ca++:9.3 mg/dL, Mg++:2.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   75 M with CAD s/p CABG (LIMA-LAD, SVG-OM1, SVG-OM2, SVG-PDA) and DES to
   OM2 in [**2180**] admitted for NSTEMI and had subsequent unsucessful PTA on
   the native OM2.  Course marked by symtomatic bradycardia and chest pain
   with hypertension.
   CAD/Stable Angina: Lateral STDs with chest pain concerning but unable
   to revascularize the OM2 territory by cath.  Likely now stable angina.
   Treating with medical management.
   - continue asa, plavix
   - hold bblocker for bradycardia and pauses
   - Simvastatin
   - ace-i
   - cont isordil 20mg [**Hospital1 **]
   - continue Ranolazine for anginal symtpoms
   Sinus Pauses: Intermittent [**1-17**] second pauses on telemetry with 6 second
   pauses recorded, with junctional escape beats.  Symtomatic with chest
   pain possibly due to coronary hypoperfusion.  Likely sinus node
   dysfunction and last dose of bblocker almost 48 hours ago.
   - EP to put in pacemaker Monday
   HTN: Inadequately controlled on the floor with SBP's in the 140's to
   170's.
   - continue lisinopril 40, amlodipine changed to nifedipine 90 CR daily
   - titrate up imdur
   - can also start clonidine (hydral less ideal)
   Spinal Stenosis: Patient was evaluated at OSH for possibility of
   epidural block.
   - percoset PRN
   DM2: continue ISS and lantus. On d/c will likely be able to take his
   oral medications again.
   Dementia/depression/anxiety: Will continue Aricept and lexapro
   FEN: Follow and replete electrolytes. Cardiac diet. No IVF at present.
   Access: PIV
   Code: Full
   ICU Care
   Nutrition:
   Comments: Low Na DM diet
   Glycemic Control:  Insulin sliding scale
   Lines:
   20 Gauge - [**2186-3-11**] 05:37 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 1230**].
   I would add the following remarks:
   Above discussed extensively with patient. I have discussed this plan
   with Dr(s). CCU team.
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   Plan:
   1. Continue antihypertensive and antianginal therapy
   2. Pacemaker tomorrow, followed by beta blockade
   3. ICU care for now (intermittent bradycardia)
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3671**], MD
   on:[**2186-3-12**] 09:38 ------

2186-03-13 05:42:00 Physician Resident Progress Note
Chief Complaint:  Pt currently has no complaints
   24 Hour Events:
   Pts BG running elevated after receiving half of the glargine dose
   No bradycardia or pauses on telemetry overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-3-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2186-3-12**] 04:31 PM
   Other medications:
   Plavix 75mg QD
   Lisinopril 40mg QHS
   Simvastatin 80 QD
   ASA 325mg QD
   Nifedipine 90mg QD
   Isordil 20mg [**Hospital1 **]
   Ranolazine 500mg [**Hospital1 **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: negative
   Flowsheet Data as of  [**2186-3-13**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 64 (63 - 90) bpm
   BP: 123/51(67) {109/40(58) - 152/94(108)} mmHg
   RR: 23 (13 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                  2,025 mL
                  PO:
                                                                  2,025 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                    300 mL
   Urine:
                                                                  1,675 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    350 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   GEN: Alert and oriented x 2 (self, date), NAD
   HEENT: NC, AT, EOMI, PERRLA, MMM
   Neck: JVP 8cm
   CV: RRR, III/VI early harsh crescendo-decrescendo murmur at apex, no
   rubs or gallops.
   PULM: CTAB, no W/R/R
   ABD: Soft, NT, NT, +BS.  Stable R groin hematoma with ecchynoses that
   extend down to scrotum and penis, nontender.
   EXT: No peripheral edema, WWP
   Labs / Radiology
   254K/uL
   9.8 g/dL
   203 g/dL
   1.7 mg/dL
   32 mEq/L
   4.2
   50 mg/dL
   101 mEq/L
   140 mEq/L
   27.9%
   10.3 K/uL
        [image002.jpg]
                             [**2186-3-11**]  05:32 AM
                             [**2186-3-11**]  05:11 PM
                             [**2186-3-12**]  04:21 AM
   WBC
   11.5
   12.3
   Hct
   28.0
   28.8
   28.5
   Plt
   250
   276
   Cr
   1.8
   1.8
   TropT
   0.12
   0.17
   Glucose
   211
   157
   Other labs: PT / PTT / INR:13.9/25.4/1.2, CK / CKMB /
   Troponin-T:110/5/0.17, Differential-Neuts:79.0 %, Lymph:8.8 %, Mono:8.5
   %, Eos:3.5 %, Ca++:9.3 mg/dL, Mg++:2.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   75 M with CAD s/p CABG (LIMA-LAD, SVG-OM1, SVG-OM2, SVG-PDA) and DES to
   OM2 in [**2180**] admitted for NSTEMI and had subsequent unsucessful PTA on
   the native OM2.  Course marked by symtomatic bradycardia and chest pain
   with hypertension.
   Sinus Pauses: Intermittent [**1-17**] second pauses on telemetry with 6 second
   pauses recorded, with junctional escape beats, no events on telemetry
   overnight.  Symtomatic with chest pain possibly due to coronary
   hypoperfusion, however no longer reporting chest pain.  Likely sinus
   node dysfunction.
   - EP to put in pacemaker today
   CAD/Stable Angina: Lateral STDs with chest pain concerning but unable
   to revascularize the OM2 territory by cath.  Likely now stable angina.
   Treating with medical management, controlled.
   - continue asa, plavix
   - hold bblocker for bradycardia and pauses
   - continue simvastatin
   - continue ace-i
   - continue isordil 20mg [**Hospital1 **]
   - continue Ranolazine for anginal symtpoms
   HTN: Inadequately controlled on the floor with SBP's in the 140's to
   170's.
   - continue lisinopril 40, amlodipine changed to nifedipine 90 CR daily
   - titrate up isordil as needed
   - can also start clonidine (hydral less ideal)
   Spinal Stenosis: Patient was evaluated at OSH for possibility of
   epidural block.
   - percoset PRN
   DM2: continue ISS and lantus. On d/c will likely be able to take his
   oral medications again.
   Dementia/depression/anxiety: Will continue Aricept and lexapro
   FEN: Follow and replete electrolytes. Cardiac diet. No IVF at present.
   Access: PIV
   Code: Full
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-3-11**] 05:37 AM
   Prophylaxis:
   DVT: heparin SC TID
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to the floor following pacemaker